US06420349B1
Methyl 2-(4-{4-[(t-butyl)oxycarbonyl]piperazinyl}-3-fluorophenyl)acetate
To 2-(4-{4-[(t-butyl)oxycarbonyl]piperazinyl}-3-fluorophenyl)acetic acid (0.3 g, 1.0 mmol) in 2 mL methanol and 7 mL benzene was added trimethylsilyidiazomethane (0.65 mL, 1.30 mmol). After stirring at ambient temperature for 1 hour, the reaction mixture was concentrated to provide 0.36 g (99%) of the title compound. 1H NMR (CDCl3; 300 MHz) δ7.00 (m, 2H), 6.90 (t, J=8.3 Hz, 1H), 3.71 (s, 3H), 3.61 (t, J=4.9 Hz, 4H), 3.57 (s, 2H), 3.02 (t, J=5.0 Hz, 4H), 1.50 (s, 9H); ESI (M+H)+=353.

reactant | 2-(4-{4-[(t-butyl)oxycarbonyl]piperazinyl}-3-fluorophenyl)acetic acid | 1.0 mmol, 0.3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)CC(=O)O)F | C17H23FN2O4
reactant | trimethylsilyidiazomethane | 1.30 mmol, 0.65 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 2 mL | CO | CH4O
solvent | benzene | 7 mL | C1=CC=CC=C1 | C6H6
product | Methyl 2-(4-{4-[(t-butyl)oxycarbonyl]piperazinyl}-3-fluorophenyl)acetate | 0.36 g, 99% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)CC(=O)OC)F | C18H25FN2O4
